US06936619B2
3-Methylisonicotinonitrile
To a solution of 3-picoline N-oxide (60 g, 0.55 mol) in dichloromethane (1000 mL) was added ethyl iodide (132 mL, 1.65 mol) and the mixture stirred at room temperature for 16 hours. The precipitate was collected by filtration and washed with diethyl ether (200 mL) to give a white solid. The solid was dissolved in water (600 mL) and warmed to 50° C. Sodium cyanide (50 g, 1.02 mol) was added as a solution in water (180 mL) over 1 hour, keeping the internal temperature below 60° C. and the resulting dark brown solution was stirred at 55° C. for a further 1 hour. The reaction mixture was extracted with diethyl ether (3×600 mL). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure to give a brown oil. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of n-pentane:dichloromethane (40:60 to 0:100). The product was co-evaporated with dichloromethane (2×300 mL) to give the title compound as a colourless oil (30.5 g, 47%).

reactant | 3-picoline N-oxide | 0.55 mol, 60 g | [N+]1(=CC(=CC=C1)C)[O-] | C6H7NO
reactant | ethyl iodide | 1.65 mol, 132 mL | C(C)I | C2H5I
reactant | Sodium cyanide | 1.02 mol, 50 g | [C-]#N.[Na+]
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
solvent | water | 600 mL | O | H2O
solvent | water | 180 mL | O | H2O
product | 3-Methylisonicotinonitrile | 30.5 g, 47% | CC1=C(C#N)C=CN=C1 | C7H6N2
